US05407993
A chloroprene/methyl methacrylate graft copolymer was prepared as follows. A mixture of 80 parts chloroprene, 20 parts methyl methacrylate, and 0.2 parts n-dodecylmercaptan was emulsified with 110 parts water, 5 parts 60% triethanolammonium dodecylbenzene sulfonate, 1 part nonyl phenol condensed with 10 moles of ethylene oxide, 0.3 parts sodium sulfite, and 0.24 parts potassium hydroxide. Polymerization was initiated at 15° C. by addition of potassium persulfate and the temperature was maintained until the specific gravity of the emulsion reached 1.060 B which represented a conversion of 75%. The temperature of the emulsion was then raised to 48° C. and polymerization continued until no further specific gravity increase was observed. The conversion was greater than 99% and a shortstopping agent, phenothiazine, was added. The solids content of the emulsion was 47.0%.

reactant | chloroprene | C=CC(=C)Cl | C4H5Cl
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | n-dodecylmercaptan | C(CCCCCCCCCCC)S | C12H26S
reactant | triethanolammonium dodecylbenzene sulfonate | CCCCCCCCCCCCC1=CC=C(C=C1)S(=O)(=O)O.C(CO)N(CCO)CCO
reactant | nonyl phenol | C(CCCCCCCC)C1=C(C=CC=C1)O | C15H24O
reactant | ethylene oxide | 10 moles | C1CO1 | C2H4O
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | water | O | H2O
product | chloroprene methyl methacrylate | C=CC(=C)Cl.C(C(=C)C)(=O)OC | InChI=1S/C5H8O2.C4H5Cl/c1-4(2)5(6)7-3;1-3-4(2)5/h1H2,2-3H3;3H,1-2H2
